US04284570
Pseudomonic acid C (80 mgs) was dissolved in 0.1 M sodium hydroxide (20 ml) and stirred overnight at room temperature. After evaporation to low volume the solution was adjusted to pH 2 (5 M HCl), saturated with sodium chloride and extracted with ethyl acetate. The combined extracts were dried (MgSO4) then evaporated to dryness and chromatographed on silica (2 g) eluting with gradient of 0 to 8% methanol/chloroform. Fractions containing pure product (by hplc and tlc) were combined to give monic acid C(40 mgs, 74%), νmax (KBr) 3400 (broad) 1692 (broad), 1644, 1238, 975 cm-1 ; λmax (EtOH) 218 nm (ε9679); δH (CD3OD) 0.97 (3H, d, J 8 Hz, CH3 -17), 1.08 (3H, d, J 7 Hz, CH3 -14), 2.13 (3H, s, CH3 -15), 5.4 (2H, m, H-10, H-11), 5.67 (1H, s, H-2); δC (CD3OD) 170.2 (Cl), 159.0 (C3), 135.8, 129.7 (C10, C11), 118.6 (C2), 76.2 (C5), 72.5 (C7), 71.6 (C13), 70.0 (C6), 65.8 (C16), 45.3 (C12), 44.1 (C4), 43.7 (C8), 33.7 (C9), 20.4 (C14), 19.3 (C15), 16.7 (C17). (Found: 284.1624. C16H28O6M.+ --C2H4O requires 284.1623).

reactant | Pseudomonic acid C | 80 mgs | C[C@H](/C=C/C[C@H]1CO[C@H]([C@@H]([C@@H]1O)O)C/C(=C/C(=O)OCCCCCCCCC(=O)O)/C)[C@H](C)O | C26H44O8
reactant | sodium hydroxide | 0.1 M, 20 ml | [OH-].[Na+]
product | monic acid C | 40 mgs, 74% | C[C@H](C1=C(O1)C[C@H]2CO[C@H]([C@@H]([C@@H]2O)O)C/C(=C/C(=O)O)/C)[C@H](C)O | C17H26O7
